US09376422B2
Compound 406: 5-Chloro-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl]benzamide
To a stirred solution of 5-chloro-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methylbenzoic acid (crude material, 1.80 g, 3.26 mmol) and 3-(aminomethyl)-6-methyl-4-propyl-1,2-dihydropyridin-2-one HCl salt (916 mg, 4.24 mmol) in DMSO (10 mL) was added PyBOP (3.10 g, 5.87 mmol) and hunig base (1.20 g, 9.78 mmol). The reaction mixture was stirred at 23° C. for 16 hours. The reaction mixture was quenched with water and resulting precipitate was collected. The solid was purified by silica gel column chromatography (NH—SiO2 Ethylacetate/MeOH=10/1) to give the titled compound as a white solid (264 mg, 17% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.20 (t, J=5.9 Hz, 1H), 7.06 (d, J=2.0 Hz, 1H), 7.02 (d, J=2.0 Hz, 1H), 5.96 (s, 1H), 4.54 (d, J=5.9 Hz, 2H), 3.02 (q, J=7.0 Hz, 2H), 2.81 (m, 2H), 2.64-2.71 (m, 3H), 2.21-2.27 (s×3, 9H), 1.84-1.94 (m, 2H), 1.55-1.65 (m, 6H), 1.00 (t, J=7.4 Hz, 3H), 0.84 (t, J=7.0 Hz, 3H); MS (ES) [M+H] 473.1, [M+Na] 495.3; HPLC 94.7% purity.

reactant | 5-chloro-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methylbenzoic acid | 3.26 mmol, 1.80 g | ClC=1C=C(C(=C(C(=O)O)C1)C)N(C1CCN(CC1)C)CC | C16H23ClN2O2
reactant | 3-(aminomethyl)-6-methyl-4-propyl-1,2-dihydropyridin-2-one HCl salt | 4.24 mmol, 916 mg | Cl.NCC=1C(NC(=CC1CCC)C)=O
reactant | PyBOP | 5.87 mmol, 3.10 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | hunig base | 9.78 mmol, 1.20 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 5-Chloro-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl]benzamide | 264 mg, 17% yield | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2CCC)C)=O)C1)C)N(C1CCN(CC1)C)CC | C26H37ClN4O2
